US09169254B2
Phosgene (20% solution in toluene, 35 μL, 67 μmol) was added to a mixed solution of 8-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (30 mg, 56 μmol) and triethylamine (15 μL, 84 μmol) in dichloromethane (1.5 ml) and dimethylformamide (0.5 ml) at 0° C. The mixture was stirred at room temperature for three hours, and then quenched with water and extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give N-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-N-methyl-chloroformamide (28 mg, 85%).

reactant | Phosgene | 67 μmol, 35 μL | C(=O)(Cl)Cl | CCl2O
reactant | 8-[(E)-2-(2,6-dimethyl-4-methylamino-phenyl)-ethenesulfonyl]-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 56 μmol, 30 mg | CC1=C(C(=CC(=C1)NC)C)/C=C/S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)OC(F)(F)F)=O)CC1 | C25H27F3N4O4S
reactant | triethylamine | 84 μmol, 15 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(3-trifluoromethoxy-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-N-methyl-chloroformamide | 28 mg, 85% | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)OC(F)(F)F)=O)CC1)C)N(C(=O)Cl)C | C26H26ClF3N4O5S
